US05968923
1-Diphenylmethyl-3-(piperidin-1-yl)azetidine
A mixture of 1-diphenylmethyl-3-methanesulphonyloxyazetidine (see Preparation 54) (1.5 g, 1 mol. equiv.), piperidine (0.6 g, 1.5 mol. equiv.) and potassium carbonate (1.31 g, 2 mol. equiv.) in acetonitrile (20 ml) was heated under reflux under nitrogen for four hours. Saturated aqueous sodium bicarbonate solution and brine were added and the mixture extracted with ethyl acetate (2×40 ml). The organic extracts were combined and dried using magnesium sulphate. The organic solvent was removed under reduced pressure and the residue purified by flash column chromatography on silica gel eluting with methanol:dichloromethane (1:9, by volume) to give the title compound (0.65 g). TLC Rf=0.5 (silica, methanol:dichloromethane, 1:9, by volume). LRMS m/z=307(m+1)+. Found: C, 81.50; H, 8.51; N, 9,02. C21H26N2.0.06 CH2Cl2 requires C, 81.14; H, 8.45; N, 8.99%.

reactant | 1-diphenylmethyl-3-methanesulphonyloxyazetidine | 1 mol, 1.5 g | C1(=CC=CC=C1)C(N1CC(C1)OS(=O)(=O)C)C1=CC=CC=C1 | C17H19NO3S
reactant | piperidine | 1.5 mol, 0.6 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 2 mol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 1-Diphenylmethyl-3-(piperidin-1-yl)azetidine | 0.65 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCCCC1)C1=CC=CC=C1 | C21H26N2
